US04638067
7-[3-Amino-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic Acid
A suspension of 5.65 g (20 mmole) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 4.65 g (25 mmole) of 3-t-butoxycarbonylaminopyrrolidine, 7.9 g (50 mmole) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 150 ml of acetonitrile was stirred at 60° C. for one hour. The solvent was removed in vacuo and the residue was dissolved in 100 ml of trifluoroacetic acid. After stirring at room temperature for one hour, the solvent was removed in vacuo and the residue was suspended in water and the pH adjusted to 11.5 with 50% sodium hydroxide. After filtering through a fiber glass pad to clarify, the filtrate was acidified to 6.6 with 6 M hydrochloric acid. The resulting precipitate was removed by filtration, washed with water, 2-propanol, ether and dried in vacuo to give 6.5 g (98%) of the title compound, mp 284°-286° C.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 20 mmole, 5.65 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 3-t-butoxycarbonylaminopyrrolidine | 25 mmole, 4.65 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 50 mmole, 7.9 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 7-[3-Amino-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic Acid | 6.5 g, 98% | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C16H17FN4O3
